US08497360B2
4-Iodo-2-nitroaniline (6.60 g, 0.025 mol) was suspended in water (19 mL) and glacial acetic acid (17.5 mL) (Sapountzis et al., 2005, which is incorporated herein by reference). The mixture was cooled to 0° C. Sulfuric acid (17.5 mL, 0.328 mol) was added cautiously. The mixture was cooled to minus 5° C., and a solution of NaNO2 (1.90 g, 0.028 mol) in water (7.5 mL) was added dropwise at a rate that the temperature would not exceed 0° C. Upon completion of the addition the mixture was stirred for 30 minutes and was added in small portions to a boiling solution of sodium iodide (22.33 g, 0.149 mol) in water (7.5 mL) (CAUTION: vigorous nitrogen evolution!). The resulting mixture was kept at 60° C. for one hour, then cooled down to room temperature, followed by addition of diethyl ether (500 mL). The ether solution was separated, washed twice with water (150 mL) and once saturated NaHCO3 (150 mL). The solution was dried over Na2SO4 and concentrated in vacuo to a solid, which was recrystallized from ethanol to yield 1,4-diiodo-2-nitrobenzene (9.30 g, 99%). 1H NMR (400 MHz, CDCl3): δ 8.15 (d, 1H, J=2.0 Hz), 7.75 (d, 1 H, J=8.3 Hz), 7.56 (dd, 1 H, J=8.3 and 2.0 Hz).

reactant | 4-Iodo-2-nitroaniline | 0.025 mol, 6.60 g | IC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | Sulfuric acid | 0.328 mol, 17.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | 0.028 mol, 1.90 g | N(=O)[O-].[Na+]
reactant | sodium iodide | 0.149 mol, 22.33 g | [I-].[Na+]
solvent | water | 19 mL | O | H2O
solvent | water | 7.5 mL | O | H2O
solvent | water | 7.5 mL | O | H2O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | acetic acid | 17.5 mL | C(C)(=O)O | C2H4O2
product | 1,4-diiodo-2-nitrobenzene | 9.30 g, 99% | IC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3I2NO2
